US07199147B2
Methanesulfonyl chloride (887 μl, 7.20 mmol) was added to a suspension of 5-nitroindazole (979 mg, 6.00 mmol) and triethylamine (2.0 ml, 14.3 mmol) in dichloromethane (20 ml) at 0° C., and the resulting mixture was stirred at room temperature for 3 hours. Methanesulfonyl chloride (222 μl, 1.80 mmol) was further added thereto, followed by stirring for another 1 hour. The reaction mixture was poured into a saturated aqueous sodium hydrogencarbonate solution to terminate the reaction, followed by extraction with chloroform. The extract solution was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by washing with methanol to obtain 1-(methylsulfonyl)-5-nitro-1H-indazole (1.16 g, 80%).

reactant | Methanesulfonyl chloride | 7.20 mmol, 887 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-nitroindazole | 6.00 mmol, 979 mg | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | triethylamine | 14.3 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 1.80 mmol, 222 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(methylsulfonyl)-5-nitro-1H-indazole | 1.16 g, 80% | CS(=O)(=O)N1N=CC2=CC(=CC=C12)[N+](=O)[O-] | C8H7N3O4S
